US04709048
(a) Preparation of (R)-α-Methyl-N-(2-ethylcyclohexylidene)-benzenemethanamine
A solution of 2-ethylcyclohexanone (6.92 mol, 873 g), (R)-α-methylbenzylamine (6.92 mol, 839 g), and 19.6 mL of acetic acid were refluxed for 12 hours under nitrogen in 2 L of toluene with azeotropic removal of water. The toluene was removed on a rotary evaporator and the product was divided into two portions. The unreacted 2-ethylcyclohexanone was distilled through a short path (bp 30° C., <10 mm), and the remainder of the product was then distilled through a 5" vacuum jacketed Vigreux column affording first a low melting solid (bp 80°-90° C. 23 mm), and then the product (bp 128°-133° C. 21.0 mm, 1.303 kg from both distillations combined, 5.68 mol, 82%).

reactant | 2-ethylcyclohexanone | 6.92 mol, 873 g | C(C)C1C(CCCC1)=O | C8H14O
reactant | (R)-α-methylbenzylamine | 6.92 mol, 839 g | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | acetic acid | 19.6 mL | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
product | (R)-α-Methyl-N-(2-ethylcyclohexylidene)-benzenemethanamine | C[C@@H](N=C1C(CCCC1)CC)C1=CC=CC=C1 | C16H23N
